US04166184
Crude 3,7-dibenzamidoheptan-2-one (123 g, 0.35 mol) was hydrolysed by heating under reflux with concentrated HCl for 18 hours to give 3,7-diaminoheptan-2-one dihydrochloride (49 g, 65%), m.p. 160°-166° (MeCN). δ(60 MHzD2O) 4.3 (t,CH), 3.1 (t,NHC2), 2.35 (s,CH3), 1.7 (m(CH2)3).

reactant | 3,7-dibenzamidoheptan-2-one | 0.35 mol, 123 g | C(C1=CC=CC=C1)(=O)NC(C(C)=O)CCCCNC(C1=CC=CC=C1)=O | C21H24N2O3
reactant | HCl | Cl | ClH
solvent | MeCN | CC#N | C2H3N
product | 3,7-diaminoheptan-2-one dihydrochloride | 49 g, 65% | Cl.Cl.NC(C(C)=O)CCCCN | InChI=1S/C7H16N2O.2ClH/c1-6(10)7(9)4-2-3-5-8;;/h7H,2-5,8-9H2,1H3;2*1H
